US07977477B2
A mixture of 2,6-difluoro-N-[3-(5-hydroxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide (50 mg), 37% aqueous formaldehyde (1 ml) and N-methylpiperazine (150 μL) in benzene (1 ml) was heated in a microwave at 100° C. and 50 W for 10 minutes, reduced in vacuo and submitted to preparative LC/MS for purification to give 2,6-difluoro-N-{3-[5-hydroxy-4-(4-methyl-piperazin-1-ylmethyl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-benzamide (7 mg) as a yellow solid. (LC/MS: Rt 1.98, [M+H]+ 468.19).

reactant | 2,6-difluoro-N-[3-(5-hydroxy-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | 50 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)O)C(=CC=C1)F | C17H11F2N5O2
reactant | formaldehyde | 1 ml | C=O | CH2O
reactant | N-methylpiperazine | 150 μL | CN1CCNCC1 | C5H12N2
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
product | 2,6-difluoro-N-{3-[5-hydroxy-4-(4-methyl-piperazin-1-ylmethyl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}-benzamide | 7 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3CN3CCN(CC3)C)O)C(=CC=C1)F | C23H23F2N7O2
